US05610293
B. Synthesis of N,N'-Di(p-toluenesulfonyl]-1,2-diamino-3-phenylpropane
To a stirred solution of p-toluenesulfonyl chloride (92.0 g, 0.482 mole) and triethylamine (48.8 g, 0.482 mole) in CH2Cl2 (350 ml) at 0° C. under a dry argon atmosphere was added a solution of 1,2-diamino-3-phenylpropane prepared as in Example 6A (34.5 g, 0.230 mole) in CH2Cl2 (100 ml), maintaining the temperature <10° C. The addition required 1 h. The mixture was allowed to warm to room temperature and was stirred an additional 15 h. The mixture was then poured onto ice (500 g) and the CH2Cl2 layer was separated. The CH2Cl2 layer was washed with 1N HCl, H2O and saturated NaCl solution and was dried (MgSO4). The solvent was removed in vacuo and the resulting yellow oil washed with hexane. The crude product was purified by recrystallization from CH2Cl2 -hexane to give 71.4 g (68% yield) of the product as a crystalline solid: mp 128°-31° C.; 1H NMR (CDCl3) δ2.42 (s, 3 H), 2.43 (s, 3 H), 2.69 (ABq of dd, δν=44.0 Hz, J=14.0, 6.6 HZ, 2 H), 3.02 (m, 2 H), 3.36 (hex, J=6.6 Hz, 2 H), 4.85 (d, J=6.6 Hz, 1 H), 5.16 (t, J=6.5 Hz, 1 H), 6.87 (m, 2 H), 7.15 (m, 5 H), 7.29 (m, 2 H), 7.50 (m, 2 H), 7.70 (m, 2 H).

reactant | p-toluenesulfonyl chloride | 0.482 mole, 92.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.482 mole, 48.8 g | C(C)N(CC)CC | C6H15N
reactant | 1,2-diamino-3-phenylpropane | NCC(CC1=CC=CC=C1)N | C9H14N2
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N,N'-Di(p-toluenesulfonyl]-1,2-diamino-3-phenylpropane | 71.4 g, 68% yield | C1(=CC=C(C=C1)S(=O)(=O)NCC(CC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C23H26N2O4S2
